US08017626B2
Method 5: 7-Bromo-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione
Sodium hydride (0.47 g, 12 mmol) was added to a 3 neck 250 mL RBF under nitrogen and then washed with hexanes. Once the hexanes were decanted, N,N-dimethylformamide (20.0 mL, 11 mmol) was added. The resulting mixture was cooled to 0° C. using an ice-water bath, and then 7-bromo-1H-benzo[d][1,3]oxazine-2,4-dione (2.7 g, 11 mmol) was added in one batch. After stirring at room temperature for 1 hour, iodomethane (0.70 mL, 11 mmol) was added dropwise to the yellow solution, and the reaction mixture was stirred for 16 hours. Water (50 mL) was added, and the resulting precipitate that formed was collected via filtration. The solid was washed with additional water (100 mL), followed by ether (100 mL). Drying in a vacuum oven overnight at 50° C. afforded the desired product as an off-white solid (2.1 g, 74% yield).

reactant | Sodium hydride | 12 mmol, 0.47 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 11 mmol, 20.0 mL | CN(C=O)C | C3H7NO
reactant | 7-bromo-1H-benzo[d][1,3]oxazine-2,4-dione | 11 mmol, 2.7 g | BrC=1C=CC2=C(NC(OC2=O)=O)C1 | C8H4BrNO3
reactant | iodomethane | 11 mmol, 0.70 mL | IC | CH3I
solvent | Water | 50 mL | O | H2O
product | 7-Bromo-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | 2.1 g, 74% yield | BrC=1C=CC2=C(N(C(OC2=O)=O)C)C1 | C9H6BrNO3
